US09238640B2
Preparation of 2-(3-(2-Hydroxyethoxy)-5-methylphenyl)-5,7-dimethoxyquinazolin-4(3H)-one
To a solution of 2-amino-4,6-dimethoxy-benzamide (0.350 g, 1.78 mmol) in N,N-dimethylacetamide (20 mL) under nitrogen was added 3-[2-(tert-butyl-dimethyl-silanyloxy)-ethoxy]-5-methyl-benzaldehyde (0.520 g, 1.78 mmol) followed by sodium hydrogensulfite (0.270 g, 2.67 mmol), and p-toluenesulfonic acid (0.033 g, 0.18 mmol). The resulting mixture was heated at 120° C. for 24 hours, then the solvent was concentrated to 5 mL under reduced pressure, and water was added to obtain a precipitate, which was filtered off and washed with Et2O and methylene chloride. The resulting solid was dissolved in hot CH2Cl2/MeOH, and then precipitated by adding Et2O, and purified by preparative thin-layer chromatography (DC-Fertigplatten SIL G-100 UV, 9/1 methylene chloride/MeOH as eluent) to give the title compound as a yellow solid. Yield: 81 mg (13%). MP 106.9-109.1° C. 1H NMR (400 MHz, CDCl3): δ7.86 (s, 1H), 7.41 (d, 2H), 6.82 (s, 1H), 6.57 (s, 1H), 4.15-4.13 (m, 2H), 3.94-3.90 (m, 8H), 2.43 (s, 3H). MS (ES+) m/z: 357.53 (M+1).

reactant | 2-amino-4,6-dimethoxy-benzamide | 1.78 mmol, 0.350 g | NC1=C(C(=O)N)C(=CC(=C1)OC)OC | C9H12N2O3
reactant | 3-[2-(tert-butyl-dimethyl-silanyloxy)-ethoxy]-5-methyl-benzaldehyde | 1.78 mmol, 0.520 g | C(C)(C)(C)[Si](OCCOC=1C=C(C=O)C=C(C1)C)(C)C | C16H26O3Si
reactant | sodium hydrogensulfite | 2.67 mmol, 0.270 g | S(=O)(O)[O-].[Na+]
reactant | p-toluenesulfonic acid | 0.18 mmol, 0.033 g | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
solvent | N,N-dimethylacetamide | 20 mL | CN(C(C)=O)C | C4H9NO
product | 2-(3-(2-Hydroxyethoxy)-5-methylphenyl)-5,7-dimethoxyquinazolin-4(3H)-one | OCCOC=1C=C(C=C(C1)C)C1=NC2=CC(=CC(=C2C(N1)=O)OC)OC | C19H20N2O5
